US07582123B2
Synthesis of 9-amino-8-[(2-amino-3-chloro-5-methyl-4-oxocyclohexa-2,5-dien-1-ylidene)amino]-3-methyl-2,3,4,5-tetrahydro-1H,7H-pyrazolo[1,2-a][1,2,5]triazepin-7-one
0.32 mmol of 8,9-diamino-3-methyl-2,3,4,5-tetrahydro-1H,7H-pyrazolo[1,2-a][1,2,5]triazepin-7-one methanesulfonate was dissolved in a mixture of water and ethanol (7.5 ml/1.5 ml). This solution was admixed with 0.32 mmol of 3-amino-2-chloro-6-methylphenol, then with 1.8 ml of concentrated aqueous ammonia, then with 9 ml of hydrogen peroxide.

reactant | 8,9-diamino-3-methyl-2,3,4,5-tetrahydro-1H,7H-pyrazolo[1,2-a][1,2,5]triazepin-7-one methanesulfonate | 0.32 mmol | CS(=O)(=O)O.NC=1C(N2N(CCN(CC2)C)C1N)=O
reactant | 3-amino-2-chloro-6-methylphenol | 0.32 mmol | NC=1C(=C(C(=CC1)C)O)Cl | C7H8ClNO
reactant | ammonia | 1.8 ml | N | H3N
reactant | hydrogen peroxide | 9 ml | OO | H2O2
solvent | water | O | H2O
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
product | 9-amino-8-[(2-amino-3-chloro-5-methyl-4-oxocyclohexa-2,5-dien-1-ylidene)amino]-3-methyl-2,3,4,5-tetrahydro-1H,7H-pyrazolo[1,2-a][1,2,5]triazepin-7-one | NC1=C(C(N2N1CCN(CC2)C)=O)N=C2C(=C(C(C(=C2)C)=O)Cl)N | C15H19ClN6O2
